US07576215B2
(2E)-3-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENYL}ACRYLIC ACID
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 3-(4-formyl-phenyl)-acrylic acid according to the procedure of Example 66. MS (ESI) m/z 553.

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 3-(4-formyl-phenyl)-acrylic acid | C(=O)C1=CC=C(C=C1)C=CC(=O)O | C10H8O3
product | (2E)-3-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENYL}ACRYLIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)/C=C/C(=O)O)C(F)(F)F | C33H23F3N2O3
